US06693097B2
To a solution of 4-[6-chloro-2-(pyridin-3-yloxy)-pyrimidin-4-yl]-morpholine (295 mg, 1 mmol) in THF (10 mL) was added anhydrous hydrazine (0,320 ml, 10 mmol) under the nitrogen protection. The mixture was heated at 70° C. for 15 min. After cooling to room temperature, the reaction mixture was quenched by ice brine and extracted with EtOAc (100 mL). The organic phase was washed with brine (10 mL) and water (10 ml×2), dried (Na2SO4), filtered, evaporated, and purified by flash chromatography on a column of silica gel (CH2Cl2 and CH2Cl2—MeOH, 95:5) and to give [6-morpholin-4-yl-2-(pyridin-3-yloxy)-pyrimidin-4-yl]-hydrazine (180 mg) in 62% yield. M/Z (M+1) 289.2

reactant | 4-[6-chloro-2-(pyridin-3-yloxy)-pyrimidin-4-yl]-morpholine | 1 mmol, 295 mg | ClC1=CC(=NC(=N1)OC=1C=NC=CC1)N1CCOCC1 | C13H13ClN4O2
reactant | hydrazine | 10 mmol, 0,320 ml | NN | H4N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | [6-morpholin-4-yl-2-(pyridin-3-yloxy)-pyrimidin-4-yl]-hydrazine | 180 mg, 62% yield | N1(CCOCC1)C1=CC(=NC(=N1)OC=1C=NC=CC1)NN | C13H16N6O2
